US05290933
5-Amino-2-(2-propoxyphenyl)pyrimidin-4(3H)-one
A mixture of 5-nitro-2-(2-propoxyphenyl)-pyrimidin-4(3H)-one (4.34 g) in methanol (120 ml) was treated with hydrogen at atmospheric pressure and ambient temperature in the presence of 10% palladium on carbon (170 mg) for five hours. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure affording a dark oily residue. This was eluted from a silica column with chloroform and the combined fractions containing product were evaporated under reduced pressure to afford the crude title compound as a dark yellow solid, 1.69 g. This was recrystallised from isopropylacetate, then dissolved in boiling 2 Normal hydrochloric acid, and the filtered, cooled solution was washed with chloroform. The acidic solution was neutralised with potassium carbonate which afforded a pale yellow solid, 600 mg, which was recrystallised from acetonitrile to afford the title compound, 250 mg, m.p. 157°-158° C.

reactant | 5-nitro-2-(2-propoxyphenyl)-pyrimidin-4(3H)-one | 4.34 g | [N+](=O)([O-])C=1C(NC(=NC1)C1=C(C=CC=C1)OCCC)=O | C13H13N3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium on carbon | 170 mg | [Pd] | Pd
product | 5-Amino-2-(2-propoxyphenyl)pyrimidin-4(3H)-one | NC=1C(NC(=NC1)C1=C(C=CC=C1)OCCC)=O | C13H15N3O2
